US09427428B2
(2S,3R)-2-(methoxycarbonylamino)-3-methylpentanoic acid was synthesized similar to N-methoxycarbonyl-L-Valine, using (2S,3R)-2-amino-3-methylpentanoic acid instead of L-Valine.

reactant | N-methoxycarbonyl-L-Valine | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | (2S,3R)-2-amino-3-methylpentanoic acid | N[C@H](C(=O)O)[C@@H](CC)C | C6H13NO2
product | (2S,3R)-2-(methoxycarbonylamino)-3-methylpentanoic acid | COC(=O)N[C@H](C(=O)O)[C@@H](CC)C | C8H15NO4
